US07582769B2
(2-{3-Cyclohexyl-3-[1-(morpholine-4-carbonyl)-piperidin-4-yl]-ureido}-thiazol-5-ylsulfanyl)-acetic acid
{2-[3-Cyclohexyl-3-piperidin-4-yl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester was pre-pared in a similar manner to the synthesis of example 12 from N-Boc piperidone, cyclohexylamine and (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester, Boc deprotection, reaction with 4-morpholine carbonyl chloride and hydrolysis of the ester moiety as described in general procedure (I) gave the title compound.

reactant | {2-[3-Cyclohexyl-3-piperidin-4-yl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(C1CCNCC1)C1CCCCC1)=O | C19H30N4O3S2
reactant | N-Boc piperidone | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
reactant | 4-morpholine carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | (2-{3-Cyclohexyl-3-[1-(morpholine-4-carbonyl)-piperidin-4-yl]-ureido}-thiazol-5-ylsulfanyl)-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)C1CCN(CC1)C(=O)N1CCOCC1 | C22H33N5O5S2
